* ============================================================
* complete.cir
* Brian Degnan
* version 23JUN2026
* GPL-3, please improve and publish
*
* TRANSISTOR-LEVEL tag IC for the complete bidirectional UHF-RFID link,
* in skywater sky130. This is with the tag silicon flattened from
* the abstract abnmos/abpmos wrappers down to explicit sky130_fd_pr fets, and
* with the behavioral slicer (Bdem) replaced by a real sky130 comparator.
*

* ============================================================
.lib "$SPICE_LIB/sky130.lib.spice" tt

* ---- sky130 device shorthands (so the netlist reads cleanly) ----
* unit fet sizes = the abstract-library units
.param Wn = 0.36   ; nfet_01v8 L=0.15 minimum-width bin
.param Wp = 0.42   ; pfet_01v8 L=0.15 minimum-width bin
.param Lu = 0.15

* ---- global parameters ----
.param fc    = 900e6
.param w     = {2*3.141592653589793*fc}
.param Pin   = 1.0                  ; reader power into its antenna [W]
.param Vamp  = {sqrt(8*73.08*Pin)}  ; reader Thevenin amplitude (~24.16 V)

* antenna self/mutual at 1 m (validated dipole two-port)
.param Rself = 73.08
.param Lself = 7.515n
.param Cmatch= 4.16p
.param K12   = 0.1481
.param R21   = 0.571

* strap + matching
.param Lstrap= 2n
.param Rstrap= 1.0
.param Lmat  = 35n
.param Cmat  = 0.6p

* backscatter modulator
.param Vmodhi= 2.5
.param Nmod  = 2                    ; shunt FET = Nmod parallel unit nfets (m=Nmod).
                                  

* tag-side downlink demodulator (envelope-detector RC)
.param Renv  = 2.5k
.param Cenv  = 10p
.param Rref  = 50k
.param Cref  = 20p

* transistor comparator/slicer sizing (5T OTA + inverter buffer)
.param Wcin  = 4      ; pMOS input-pair width (um)  -- env/ref ~0.18 V => pMOS input
.param Wctl  = 8      ; pMOS tail / bias-ref width
.param Wcld  = 2      ; nMOS mirror-load width
.param Lc    = 0.5    ; comparator channel length (gain)
.param Rcbias= 8meg   ; sets the OTA tail current from vdd (~150 nA: light load on
                      ; the thin pump margin, yet fast enough for the 80 ns notches)

* =====================================================================
*  1) READER  (behavioral instrument: 1 W ASK/PIE carrier)
* =====================================================================
* PIE: bit encoded in the HIGH duration before each notch. Notches widened to
* 80 ns (vs full.cir's 26 ns) so env fully settles and the REAL transistor
* comparator -- finite gain/speed/offset -- gets a clear env-vs-ref margin to
* slice. (full.cir's behavioral comparator had infinite gain and did not need it.)
Vdl   dlenv 0  PWL( 0n 1  400n 1
+     568n 1  570n 0.1  648n 0.1  650n 1            ; bit 1 (long high, 80 ns notch)
+     718n 1  720n 0.1  798n 0.1  800n 1            ; bit 0 (short high)
+     968n 1  970n 0.1 1048n 0.1 1050n 1            ; bit 1 (long high)
+    1218n 1 1220n 0.1 1298n 0.1 1300n 1            ; bit 1 (long high)
+    2500n 1 )
Btx   txin 0   V = {Vamp}*v(dlenv)*sin({w}*time)
Rsrc  txin nrs {Rself}
Csrc  nrs  nr1 {Cmatch}
Vsns1 nr1  nr2 0
Brad1 nr2  nr3 V = {R21}*i(Vsns2)
Rrad1 nr3  nr4 {Rself}
L1    nr4  0   {Lself}

* =====================================================================
*  2) FREE SPACE @ 1 m = two-port coupling (passive / behavioral)
* =====================================================================
K12   L1 L2 {K12}

* =====================================================================
*  3) TAG DIPOLE
* =====================================================================
L2    tp   ta  {Lself}
Vsns2 ta   tb  0
Brad2 tb   tc  V = {R21}*i(Vsns1)
Rrad2 tc   tn  {Rself}

* =====================================================================
*  4) STRAP + CONJUGATE MATCH (passive) -> rfp, rfn
* =====================================================================
Lsp   tp   m1  {Lstrap/2}
Rsp   m1   m2  {Rstrap/2}
Lmp   m2   rfp {Lmat/2}
Lsn   tn   m3  {Lstrap/2}
Rsn   m3   m4  {Rstrap/2}
Lmn   m4   rfn {Lmat/2}
Cm    rfp  rfn {Cmat}
Rcmp  rfp  0   1e6
Rcmn  rfn  0   1e6

* =====================================================================
*  5) CROSS-COUPLED CHARGE PUMP -> vdd      (sky130 fets; D G S B)
* =====================================================================
XMN1  rfp rfn 0   0   sky130_fd_pr__nfet_01v8 w={Wn} l={Lu}
XMN2  rfn rfp 0   0   sky130_fd_pr__nfet_01v8 w={Wn} l={Lu}
XMP1  rfp rfn vdd vdd sky130_fd_pr__pfet_01v8 w={Wp} l={Lu}
XMP2  rfn rfp vdd vdd sky130_fd_pr__pfet_01v8 w={Wp} l={Lu}
Cstor vdd 0   2.5p
Rload vdd 0   100k

* =====================================================================
*  5b) TAG DEMODULATOR: diode-connected nfet detector + RC, then a real
*      sky130 comparator (5-transistor OTA + inverter buffer) as the slicer.
*      env/ref sit at ~0.18 V, below the nfet Vth, so the OTA uses a pMOS
*      input pair (works with low common mode) with an nMOS mirror load.
*      Output: demod HIGH when env > ref (i.e. carrier present, no ASK notch).
* =====================================================================
Xdet  rfp rfp env 0  sky130_fd_pr__nfet_01v8 w={Wn} l={Lu}   ; diode-connected
Renvr env 0 {Renv}
Cenvc env 0 {Cenv}
Rrefr env ref {Rref}
Crefc ref 0 {Cref}

* -- OTA bias: Rcbias sets a reference current into a diode-connected pMOS;
*    the tail pMOS mirrors it (sources on vdd, the harvested rail) --
Rcb    vdd  nbias {Rcbias}
Xmbref nbias nbias vdd vdd sky130_fd_pr__pfet_01v8 w={Wctl} l={Lc}
Xmtail ntail nbias vdd vdd sky130_fd_pr__pfet_01v8 w={Wctl} l={Lc}
* -- pMOS input pair: gate env -> nA (mirror master), gate ref -> nB (output) --
Xm1   nA  env  ntail vdd sky130_fd_pr__pfet_01v8 w={Wcin} l={Lc}
Xm2   nB  ref  ntail vdd sky130_fd_pr__pfet_01v8 w={Wcin} l={Lc}
* -- nMOS current-mirror load --
Xm3   nA  nA   0 0 sky130_fd_pr__nfet_01v8 w={Wcld} l={Lc}
Xm4   nB  nA   0 0 sky130_fd_pr__nfet_01v8 w={Wcld} l={Lc}
* -- two-inverter buffer/slicer: nB -> d1 -> demod (clean rail at vdd) --
Xpi1  d1    nB vdd vdd sky130_fd_pr__pfet_01v8 w=2 l={Lu}
Xni1  d1    nB 0   0   sky130_fd_pr__nfet_01v8 w=1 l={Lu}
Xpi2  demod d1 vdd vdd sky130_fd_pr__pfet_01v8 w=2 l={Lu}
Xni2  demod d1 0   0   sky130_fd_pr__nfet_01v8 w=1 l={Lu}

* =====================================================================
*  6) BACKSCATTER MODULATOR (UPLINK): shunt nfet across rfp-rfn, m=Nmod
* =====================================================================
Vmod  gmod 0   PWL( 0 0  2000n 0  2001n {Vmodhi}  2200n {Vmodhi}  2201n 0
+                  2400n 0  2401n {Vmodhi}  2800n {Vmodhi}  2801n 0  2900n 0 )
XMmod rfp  gmod rfn 0  sky130_fd_pr__nfet_01v8 w={Wn} l={Lu} m={Nmod}

* =====================================================================
*  7) READER FRONT END: carrier cancellation -> homodyne I/Q (behavioral)
* =====================================================================
Vgc   gcn 0    DC 0
Vgs   gsn 0    DC 0
Brx   rxres 0  V = i(Vsns1) - v(gcn)*cos({w}*time) - v(gsn)*sin({w}*time)

Bdi0  di0  0   V = i(Vsns1)*cos({w}*time)
Rli0a di0  d0a 10k
Cli0a d0a  0   2p
Rli0b d0a  dif0 100k
Cli0b dif0 0   0.2p
Bdq0  dq0  0   V = i(Vsns1)*sin({w}*time)
Rlq0a dq0  q0a 10k
Clq0a q0a  0   2p
Rlq0b q0a  qbb0 100k
Clq0b qbb0 0   0.2p
Bmag0 bsmag0 0 V = sqrt(v(dif0)*v(dif0) + v(qbb0)*v(qbb0))

Bdi   di   0   V = v(rxres)*cos({w}*time)
Rlpi1 di   dia 10k
Clpi1 dia  0   2p
Rlpi2 dia  dif 100k
Clpi2 dif  0   0.2p
Bdq   dq   0   V = v(rxres)*sin({w}*time)
Rlpq1 dq   qia 10k
Clpq1 qia  0   2p
Rlpq2 qia  qbb 100k
Clpq2 qbb  0   0.2p
Bmag  bsmag 0  V = sqrt(v(dif)*v(dif) + v(qbb)*v(qbb))

* =====================================================================
*  analysis
* =====================================================================
.ic v(vdd)=0
.options gmin=1e-12 reltol=1e-4 abstol=1e-9 vntol=1e-7 method=gear
.tran 10p 2900n 0 10p uic
.control
  * ---- pass 1: canceller OFF -- learn the self-jam carrier leakage ----
  run
  meas tran idc AVG v(dif0) from=1800n to=1980n
  meas tran qdc AVG v(qbb0) from=1800n to=1980n
  alter Vgc = 2*idc
  alter Vgs = 2*qdc
  echo "carrier-cancellation weights: Gc =" $&idc " x2,  Gs =" $&qdc " x2"

  * ---- pass 2: canceller ON ----
  run
  meas tran vdd_chg  AVG v(vdd)   from=350n  to=395n
  meas tran vdd_dl   MIN v(vdd)   from=400n  to=1300n
  meas tran vdd_ul   MIN v(vdd)   from=2000n to=2800n
  meas tran dem_hi   AVG v(demod) from=350n  to=395n   ; slicer output, CW (env>ref)
  meas tran dem_lo   MIN v(demod) from=1240n to=1290n  ; slicer output, late notch (env<ref)
  meas tran bs_on    AVG v(bsmag) from=2050n to=2180n
  meas tran bs_off   AVG v(bsmag) from=2250n to=2380n
  print vdd_chg vdd_dl vdd_ul dem_hi dem_lo bs_off bs_on
  wrdata complete.out v(dlenv) v(vdd) v(env) v(ref) v(demod) v(gmod) v(bsmag0) v(bsmag) v(dif) v(qbb)
  echo "Transistor tag IC (sky130). Columns match full.out."
.endc
.end
