* ============================================================
* downlink_demod.cir
* Brian Degnan, 2026JUN20 version
* Please see notes in the paper
* Licensed under GPL-3.  Please improve and publish.
*
* Reader-to-tag DOWNLINK: an ASK/PIE-modulated 900 MHz carrier is
* rectified, the supply rides through the ASK notches, and an on-chip
* envelope detector + slicer recover the command waveform. All active
* devices are from the abstract library (abnmos / abpmos); the two
* "diodes" are diode-connected abnmos (gate tied to drain).
*
* Chain:
*   PIE envelope (V_cmd) x carrier  ->  coupling caps  ->
*   cross-coupled pump (vrect)  ->  blocking diode  ->  vdd (big Cstor,
*   rides through notches) with shunt limiter  ;  envelope detector
*   (diode + RC) -> env ; slow RC -> ref ; comparator -> demod.
*
* Bits encoded: 1 0 1 1 0 0 1  (TARI = 0.2 us, ~30x time-compressed vs a
* real Gen2 TARI of 6.25-25 us, to keep the .tran reasonable). 


* ============================================================
.lib "$SPICE_LIB/sky130.lib.spice" tt
.include "$SPICE_DEVICES/devices.cir"

.param pamp   = 0.7       ; carrier amplitude per side
.param pf     = 900e6
.param wc     = {2*3.141592653589793*pf}
.param Cc     = 1p        ; coupling caps
.param Vclamp = 1.2       ; shunt-limiter clamp voltage
.param Rsh    = 1k        ; shunt-limiter series resistance
.param Cstor  = 20p       ; storage (large -> rides through notches)
.param Rload  = 100k
.param Renv   = 2.5k      ; envelope-detector load 
.param Cenv   = 10p
.param Rref   = 50k       ; slicer reference RC (Rref*Cref about 1 us >> TARI)
.param Cref   = 20p
.param pvdd   = 1.0       ; recovered-logic rail (slicer output swing)

* ---- ASK/PIE envelope (1.0 = full power, 0.1 = notch) ----
V_cmd env_cmd 0 PWL( 0n 1 400n 1 800n 1 802n 0.1
+     902n 0.1 904n 1 1104n 1 1106n 0.1
+     1206n 0.1 1208n 1 1608n 1 1610n 0.1
+     1710n 0.1 1712n 1 2112n 1 2114n 0.1
+     2214n 0.1 2216n 1 2416n 1 2418n 0.1
+     2518n 0.1 2520n 1 2720n 1 2722n 0.1
+     2822n 0.1 2824n 1 3224n 1 3226n 0.1
+     3326n 0.1 3328n 1 3728n 1 )

* ---- modulated balanced carrier ----
B_rfp rfp_d 0 V = {pamp}*v(env_cmd)*sin({wc}*time)
B_rfn rfn_d 0 V = -{pamp}*v(env_cmd)*sin({wc}*time)
Ccp   rfp_d rfp {Cc}
Ccn   rfn_d rfn {Cc}

* ---- cross-coupled pump -> vrect ----   (drain gate source bulk)
XMP1 rfp rfn vrect vrect abpmos
XMP2 rfn rfp vrect vrect abpmos
XMN1 rfp rfn 0     0     abnmos
XMN2 rfn rfp 0     0     abnmos
Cvr  vrect 0 1p
Rbp  rfp 0 5meg
Rbn  rfn 0 5meg

* ---- blocking diode (diode-connected abnmos) vrect -> vdd ----
Xblk vrect vrect vdd 0 abnmos

* ---- storage + load + shunt limiter on vdd ----
Cstor vdd 0 {Cstor}
RL    vdd 0 {Rload}
Blim  vdd 0 I = (v(vdd) > Vclamp) ? (v(vdd)-Vclamp)/Rsh : 0

* ---- envelope detector: diode-connected abnmos rfp -> env, then RC ----
Xdet rfp rfp env 0 abnmos
Renvr env 0 {Renv}
Cenvc env 0 {Cenv}

* ---- slicer reference (slow average of env) and comparator ----
Rrefr env ref {Rref}
Crefc ref 0 {Cref}
Bdem  demod 0 V = (v(env) > v(ref)) ? pvdd : 0

.ic v(vdd)=0 v(vrect)=0
.options gmin=1e-12 reltol=1e-3 method=gear
.tran 40p 3778n 0 40p uic
.control
  run
  wrdata downlink.csv v(env_cmd) v(vdd) v(vrect) v(env) v(ref) v(demod)
  echo "Columns: cmd-envelope, supply(vdd), pump(vrect), detected(env), threshold(ref), sliced(demod)."
  echo "Decode PIE symbol timing offline from demod transitions."
.endc
.end
